US04465505
Preparation of 2-(2-oxazolyl)benzenamine
To 19.0 g of 2-(2-nitrophenyl)oxazole, (prepared by the procedure of W. E. Cass, J. Am. Chem. Soc., 64, 785 [1942]) 3.0 g of Raney-Nickel catalyst (purchased from Aldrich Chemical Company, Milwaukee, Wisc. 53201) and 200 ml ethanol were combined and reduced at ambient temperature and at a H2 pressure of 5-50 psi on a Paar Hydrogenator until the hydrogen uptake ceased. The catalyst was filtered through celite under a blanket of nitrogen. The solvent was removed on a rotary evaporator. 17.4 g of crude product with m.p. 31°-32° was obtained and used in the next step.

reactant | 2-(2-nitrophenyl)oxazole | 19.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC=CN1 | C9H6N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney-Nickel | 3.0 g | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-oxazolyl)benzenamine | 17.4 g | O1C(=NC=C1)C1=C(C=CC=C1)N | C9H8N2O
